US05284647
a) 5,10,15,20-Tetrakis(4-isopropylphenyl)-porphyrin
Under the conditions of example 4a, 14.82 g (100 mmol) of 4-isopropylbenzaldehyde is reacted with 6.92 ml (100 mmol) of pyrrole in 300 ml of propionic acid. The solution is evaporated to dryness in a vacuum. The residue is heated with 200 ml of ethanol quickly to boiling. It is left to cool slowly, the title compound is suctioned off, washed with a little ethanol and dried at 50° C. in a vacuum.

reactant | 4-isopropylbenzaldehyde | 100 mmol, 14.82 g | C(C)(C)C1=CC=C(C=O)C=C1 | C10H12O
reactant | pyrrole | 100 mmol, 6.92 ml | N1C=CC=C1 | C4H5N
solvent | propionic acid | 300 ml | C(CC)(=O)O | C3H6O2
product | 5,10,15,20-Tetrakis(4-isopropylphenyl)-porphyrin | C(C)(C)C1=CC=C(C=C1)C=1C2=CC=C(N2)C(=C2C=CC(C(=C3C=CC(=C(C=4C=CC1N4)C4=CC=C(C=C4)C(C)C)N3)C3=CC=C(C=C3)C(C)C)=N2)C2=CC=C(C=C2)C(C)C | C56H54N4
